US05576321
Preparation of 3-[4-(6,7-dichloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane
The title compound was prepared in a fashion similar to that described in Example 192 from 6,7-dichloro-3-(piperidin-4-yl)-1H-indole (0.80 g, 3.0 mmol), 1-chloro-3-(1H-indole-4-oxy)propane (0.64 g, 3.1 mmol) and potassium carbonate (0.83 g, 6.0 mmol). The product was isolated as a tan foam. Yield 278 mg, 21%. mp 160°-165° C. FDMS m/e=441 (M+ of free base).

reactant | 6,7-dichloro-3-(piperidin-4-yl)-1H-indole | 3.0 mmol, 0.80 g | ClC1=CC=C2C(=CNC2=C1Cl)C1CCNCC1 | C13H14Cl2N2
reactant | 1-chloro-3-(1H-indole-4-oxy)propane | 3.1 mmol, 0.64 g | ClCCCOC=1C=2C=CNC2C=CC1 | C11H12ClNO
reactant | potassium carbonate | 6.0 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[4-(6,7-dichloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane | ClC1=CC=C2C(=CNC2=C1Cl)C1CCN(CC1)CCCOC1=C2C=CNC2=CC=C1 | C24H25Cl2N3O
